US06894042B2
To a stirred solution of 2,3-dihydrobenzofuran-5-carboxylic acid (3.96 g, 24.1 mmol) in MeOH (200 mL) is added concentrated sulfuric acid (0.5 mL). The mixture is heated to reflux for 24 h. The mixture is cooled to rt, followed by the addition of solid sodium bicarbonate. The reaction mixture is concentrated in vacuo, and the remaining residue is partitioned between EtOAc and water. The aqueous layer is extracted with EtOAc, and the combined organic layers are dried (MgSO4), filtered and concentrated in vacuo to afford 4.22 g (98%) of methyl 2,3-dihydrobenzofuran-5-carboxylate as a white solid. 1H NMR (400 MHz, CDCl3) δ 7.93-7.89, 6.82, 4.69, 3.86, 3.28.

reactant | 2,3-dihydrobenzofuran-5-carboxylic acid | 24.1 mmol, 3.96 g | O1CCC2=C1C=CC(=C2)C(=O)O | C9H8O3
reactant | sulfuric acid | 0.5 mL | S(O)(O)(=O)=O | H2O4S
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | MeOH | 200 mL | CO | CH4O
product | methyl 2,3-dihydrobenzofuran-5-carboxylate | 4.22 g, 98% | O1CCC2=C1C=CC(=C2)C(=O)OC | C10H10O3
